US04060543
An argon-filled shaking autoclave is charged with a mixture of 8.1 parts of 3-pentenonitrile, 1.4 parts of dicobalt octacarbonyl, 2.6 parts of pyridine, 8 parts of methanol and 30 parts of tetrahydrofuran. The pressure is brought to 140 bars by forcing in carbon monoxide at room temperature. The autoclave is next heated to 160° C; the pressure is then brought to 200 bars by forcing in carbon monoxide, and the reaction mixture is shaken for 4 hours under these conditions. After cooling, and letting down the pressure, the mixture is filtered. Fractional distillation of the reaction mixture gives 9.9 parts of 5-cyanovaleric acid methyl ester (70.1% of theory). Boiling point 118°-120° C/10 mm Hg, nD20 = 1.4322.

reactant | 3-pentenonitrile | C(CC=CC)#N | C5H7N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanol | CO | CH4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | carbon monoxide | [C]=O | CO
catalyst | dicobalt octacarbonyl | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | 5-cyanovaleric acid methyl ester | 70.1% | COC(CCCCC#N)=O | C7H11NO2
